US08633173B2
[8-(4-Difluoromethyl-2-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine was prepared from 4-{4-[8-(4-difluoromethyl-2-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester (0.191 g, 0.348 mmol) and trifluoroacetic acid (0.500 mL) in a manner analogous to Example 312 to give product (0.170 g, 99%). MP=208-212° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.57 (s, 1H), 8.78 (d, 1H), 7.70 (d, 1H), 7.55 (m, 3H), 7.32 (s, 1H), 7.25 (m, 1H), 7.15 (m, 3H), 7.10 (br m, 1H), 3.78 (s, 3H), 3.28 (br m, 3H), 2.92 (m, 2H), 2.65 (m, 1H), 1.83 (m, 2H), 1.65 (m, 2H): MS=450 (MH)+.

reactant | 4-{4-[8-(4-difluoromethyl-2-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.348 mmol, 0.191 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C2=C(C=C(C=C2)C(F)F)OC)=N1 | C30H33F2N5O3
reactant | trifluoroacetic acid | 0.500 mL | FC(C(=O)O)(F)F | C2HF3O2
product | [8-(4-Difluoromethyl-2-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine | FC(C1=CC(=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCNCC2)OC)F | C25H25F2N5O
